US07612067B2
Preparation of 8-(1-ethyl-propyl)-3-[3-methoxy-5-(6-methyl-pyridin-2-yl)-thiophen-2-yl]-2,6-dimethyl-imidazo[1,2-b]pyridazine
To a flask containing 3-(5-bromo-3-methoxy-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.20 g, 0.49 mmol) and PdCl2(dppf) (0.018 g, 0.024 mmol) is added a solution of 0.5 M 6-methyl-2-pyridylzinc bromide in THF (3.0 mL, 1.47 mmol). The solution is heated at 65° C. overnight, diluted with EtOAc (30 mL), washed with sat. NH4Cl (2×30 mL), dried over MgSO4, filtered and concentrated. The residue is purified by ISCO column chromatography (15%-20% EtOAc/hexane gradient) furnish the title compound (0.066 g, 1.57 mmol, 31%). 1H NMR (CDCl3) δ 0.85 (t, J=7.5 Hz, 6H), 1.71-1.89 (m, 4H), 2.50 (s, 3H), 2.51 (s, 3H), 2.55 (s, 3H), 3.26-3.37 (m, 1H), 3.90 (s, 3H), 6.63 (s, 1H), 6.99 (d, J=7.4 Hz, 1H), 7.43 (d, J=7.7 Hz, 1H), 7.49 (s, 1H), 7.54 (dd, J=7.4, 7.7 Hz, 1H). LC/MS (m/z): calcd. for C24H28N4OS (M+H)+: 421.6; found: 422.4.

reactant | 3-(5-bromo-3-methoxy-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.49 mmol, 0.20 g | BrC1=CC(=C(S1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)OC | C18H22BrN3OS
reactant | 6-methyl-2-pyridylzinc bromide | 0.5 M | [Br-].CC1=CC=CC(=N1)[Zn+]
reactant | THF | 1.47 mmol, 3.0 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) | 0.024 mmol, 0.018 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 8-(1-ethyl-propyl)-3-[3-methoxy-5-(6-methyl-pyridin-2-yl)-thiophen-2-yl]-2,6-dimethyl-imidazo[1,2-b]pyridazine | 1.57 mmol, 0.066 g, 31% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C=2SC(=CC2OC)C2=NC(=CC=C2)C | C24H28N4OS
